US05679623
Example H14: 3-Cyanomethyl-2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole (compound no. 4.25 in table 4).
0.72 g of sodium hydride are added to a suspension of 4.1 g of 2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole in 80 ml of N,N-dimethylformamide. The mixture is heated to 50°, treated with a solution of 1.89 g of chloroacetonitrile in 20 ml of N,N-dimethylformamide, and stirred for 30 minutes. The N,N-dimethylformamide is then removed on a rotary evaporator. In a mixer, the residue is mixed intimately with water. The crystals are filtered off, yielding the title compound melting at 195°-198°.

reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | 2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | 4.1 g | CC=1NC(N(C1)N=CC=1C=NC=CC1)=O | C10H10N4O
reactant | chloroacetonitrile | 1.89 g | ClCC#N | C2H2ClN
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-Cyanomethyl-2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | C(#N)CN1C(N(C=C1C)N=CC=1C=NC=CC1)=O | C12H11N5O
